US07572809B2
The mixture of (6-methoxy-1-phenyl-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine (100 mg), 40% aq. HBr (1 ml), acetic acid (2 ml) was heated at 180° C. for 30 minutes under microwave irradiation. After reaction finished, the mixture was evaporated to oil by reduced pressure and was dissolved in 50 ml ethyl acetate. The organic layer was washed with aq. NaHCO3 and evaporated to give 70 mg of crude 3-(5-methyl-1H-pyrazol-3-ylamino)-1-phenyl-isoquinolin-6-ol. LC-MS m/e 317(MH+).

reactant | (6-methoxy-1-phenyl-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | 100 mg | COC=1C=C2C=C(N=C(C2=CC1)C1=CC=CC=C1)NC1=NNC(=C1)C | C20H18N4O
reactant | HBr | 1 ml | Br | BrH
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 3-(5-methyl-1H-pyrazol-3-ylamino)-1-phenyl-isoquinolin-6-ol | 70 mg | CC1=CC(=NN1)NC=1N=C(C2=CC=C(C=C2C1)O)C1=CC=CC=C1 | C19H16N4O
